US05763437
To a suspension of 5-cyclohexy-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide (0.70 g) in chloroform (10 ml) was added acetic anhydride (3.7 ml) at ambient temperature and the mixture was heated for 4 hours at 70° C. After cooling, the mixture was concentrated in vacuo. The residue was taken up with chloroform. The organic layer was washed with saturated aqueous sodium carbonate, dried over magnesium sulfate, filtered off and concentrated in vacuo to give a crude product. The crude product was purified by column chromatography on silica gel with chloroform to give (3RS)-3-acetoxy-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | 5-cyclohexy-2,3-dihydro-1H-1,4-benzodiazepin-2-one-4-oxide | 0.70 g | C1(CCCCC1)C1=[N+](CC(NC2=C1C=CC=C2)=O)[O-] | C15H18N2O2
reactant | acetic anhydride | 3.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (3RS)-3-acetoxy-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | C(C)(=O)OC1C(NC2=C(C(=N1)C1CCCCC1)C=CC=C2)=O | C17H20N2O3
